US04277486
To a solution of 2.38 g. of 1-[2-(6-methyl-2-naphthyl)-2-hydroxyethyl]imidazole in 40 ml. of hexamethylphosphoramide under nitrogen is added 480 mg. of a 56% dispersion of sodium hydride in mineral oil. After stirring for 1 hour at room temperature, the temperature is adjusted to 50° C. and stirring is continued for 1 to 2 hours. The reaction mixture is then cooled to about 5° C. and 0.74 ml. of iodomethane is added dropwise. Thereafter, the solution is stirred at 5° to 10° C. for 1 hour, at room temperature for 4 hours and then heated at 50° C. for 2 hours. The reaction mixture is then poured into water and the resultant aqueous mixture extracted with ether and the ether extracts washed with water. The organic phase is dried over magnesium sulfate and evaporated. The resulting residue may be chromatographed on silica gel to effect purification of the free base. Elution of the gel with 5 to 10% methanol in dichloromethane yields 1-[2-(6-methyl-2-naphthyl)-2-(methoxy)ethyl]imidazole.

reactant | 1-[2-(6-methyl-2-naphthyl)-2-hydroxyethyl]imidazole | CC=1C=C2C=CC(=CC2=CC1)C(CN1C=NC=C1)O | C16H16N2O
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | water | O | H2O
product | 1-[2-(6-methyl-2-naphthyl)-2-(methoxy)ethyl]imidazole | CC=1C=C2C=CC(=CC2=CC1)C(CN1C=NC=C1)OC | C17H18N2O
